US04538003
To 2.00 g (13.61 mmoles) of p-dichlorobenzene, and 0.050 g of [NiCltriphos]PF6 in 20 mL of ether at -78° C. was added 7.0 mL (14 mmoles) of 2M nBuMgCl in ether. After refluxing overnight and workup with NH4Cl solution, the residue (602 mg of 1.698 g) was flash-chromatographed with 5% EtOAc/hexane on silica gel to give 542 mg (67%) of 1-butyl-4-chlorobenzene. 1H NMR (200 MHz, CDCl3): δ7.22 (m,2H), 7.05 (m,2H), 2.59 (t, J=5.5 Hz, 2H), 1.58 (m, 2H), 1.34 (m,2H) 0.95 (t, J=5.2 Hz, 3H). IR(neat): 2958s, 2930s, 2859s, 1492s, 1466m, 1407m, 1901s, 1016s cm-1.

reactant | p-dichlorobenzene | 13.61 mmoles, 2.00 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | nBuMgCl | 14 mmoles, 2M, 7.0 mL | C(CCC)[Mg]Cl
solvent | ether | 20 mL | CCOCC | C4H10O
product | 1-butyl-4-chlorobenzene | 542 mg, 67% | C(CCC)C1=CC=C(C=C1)Cl | C10H13Cl
